US07323475B2
[(1-Benzenesulfinyl-4-hydroxy-isoquinoline-3-carbonyl)-amino]-acetic acid
The title compound was prepared as follows: 50 mg of [(4-hydroxy-1-phenylsulfanyl-isoquinoline-3-carbonyl)-amino]-acetic acid, Example D-110, was dissolved in 0.3 ml 1-methyl-2-pyrolydinone and 0.7 ml dichloromethane. The solution was cooled to 0° C. and 26 mg of 75% 3-chloroperoxybenzoic acid was added. The solution was stirred for 2 hours at room temperature, then concentrated under high vacuum. The resultant residue was triturated with ethyl acetate to provide 32 mg of the product as a white solid; MS (−) m/z 369.08 (M−1)

reactant | [(4-hydroxy-1-phenylsulfanyl-isoquinoline-3-carbonyl)-amino]-acetic acid | 50 mg | OC1=C(N=C(C2=CC=CC=C12)SC1=CC=CC=C1)C(=O)NCC(=O)O | C18H14N2O4S
reactant | 3-chloroperoxybenzoic acid | 26 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 0.7 ml | ClCCl | CH2Cl2
product | [(1-Benzenesulfinyl-4-hydroxy-isoquinoline-3-carbonyl)-amino]-acetic acid | C1(=CC=CC=C1)S(=O)C1=NC(=C(C2=CC=CC=C12)O)C(=O)NCC(=O)O | C18H14N2O5S
